US07691893B2
Preparation 37: 3-methyl 1-(phenylmethyl) 4-oxo-1,3-piperidinedicarboxylate (P37)
To a stirred solution of 4-oxo-3-piperidinecarboxylate (5 g) in dry DCM (50 ml), under N2 atmosphere, TEA (9 mL) was added at rt and then, at 0° C., benzylchloroformate (4.2 mL) was added slowly and stirring was continued for 30 minutes at 0° C. and 1 h at RT. The mixture was quenched at 0° C. with HCl 2N. The aqueous phase was extracted with DCM (2 times) and the combined organic layers were washed with saturated NaCl aqueous solution, dried and concentrated in vacuo to give the title compound (7.5 g).

reactant | 4-oxo-3-piperidinecarboxylate | 5 g | O=C1C(CNCC1)C(=O)[O-]
reactant | benzylchloroformate | 4.2 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-methyl 1-(phenylmethyl) 4-oxo-1,3-piperidinedicarboxylate | 7.5 g | O=C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C15H17NO5
